US05798093
A mixture of 12.1 parts of dimethyl (tetrahydro-3,3-diphenyl-2-furylidene) ammonium bromide, 8.8 parts of 4-(p-bromophenyl)-4-piperidinol hydrochloride, 10.6 parts of sodium carbonate, 0.5 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 14 hours with water separator. The reaction mixture is cooled and water (200 parts) is added. The organic layer is separated, washed with diluted sodium hydroxide solution, dried, filtered, and while stirring the filtrate, the product is crystallized. It is filtered off and recrystallized from 80 parts of 4-methyl-2-pentanone (activated charcoal), yielding 4-(p-bromophenyl)-4-hydroxy-N,N-dimethyl-α,α-diphenylpiperidine-1-butyramide hydrate; m.p. 123.7° C.

reactant | dimethyl (tetrahydro-3,3-diphenyl-2-furylidene) ammonium bromide | [Br-].C[N+](=C1OCCC1(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-(p-bromophenyl)-4-piperidinol hydrochloride | Cl.BrC1=CC=C(C=C1)C1(CCNCC1)O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 4-(p-bromophenyl)-4-hydroxy-N,N-dimethyl-α,α-diphenylpiperidine-1-butyramide hydrate | O.BrC1=CC=C(C=C1)C1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C29H33BrN2O2.H2O/c1-31(2)27(33)29(24-9-5-3-6-10-24,25-11-7-4-8-12-25)19-22-32-20-17-28(34,18-21-32)23-13-15-26(30)16-14-23;/h3-16,34H,17-22H2,1-2H3;1H2
